US07446222B2
b) 2-Benzyloxy-[1,1′;2′,1″]terphenyl-3″-carboxylic acid
2-Benzyloxy-[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester (84 mg, 0.206 mmol) was dissolved in ethanol (2 ml) and 2M sodium hydroxide (0.5 ml) added. The mixture was stirred and heated to 50° C. for 4 h. Water was added and the mixture extracted with isohexane. The aqueous layer was acidified with 2M hydrochloric acid and extracted with diethyl ether (2×10 ml). The combined organic phases were washed with water, dried (MgSO4) and evaporated. The oil was triturated with isohexane and the resulting white solid filtered, washed with isohexane and dried in vacuo. (42 mg, 54%).

reactant | 2-Benzyloxy-[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester | 0.206 mmol, 84 mg | C(C)OC(=O)C=1C=C(C=CC1)C=1C(=CC=CC1)C1=C(C=CC=C1)OCC1=CC=CC=C1 | C28H24O3
reactant | sodium hydroxide | 2M, 0.5 ml | [OH-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-Benzyloxy-[1,1′;2′,1″]terphenyl-3″-carboxylic acid | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=1C(=CC=CC1)C1=CC(=CC=C1)C(=O)O | C26H20O3
